US06133279
Under a nitrogen atmosphere, 2.0 g of 1-{4-[(5-acetoxy-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran-2-yl)methoxy]benzylideneamino}guanidine was dissolved in 100 ml of tetrahydrofuran, and 10 ml of n-butyl lithium (1.6 M in n-hexane) was added and the mixture was stirred at room temperature for 30 minutes. After reaction, the reaction solution was combined with a saturated aqueous ammonium chloride solution and extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The concentrate was purified by silica gel column chromatography eluting with chloroform containing 10% methanol to give 0.46 g of 1-{4-[(4,6-di-t-butyl-5-hydroxy-2-methyl-2,3-dihydrobenzofuran-2-yl)methoxy]benzylideneamino}guanidine as a pale yellow solid (yield 25%).

reactant | 1-{4-[(5-acetoxy-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran-2-yl)methoxy]benzylideneamino}guanidine | 2.0 g | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)COC2=CC=C(C=NNC(=N)N)C=C2)C1C(C)(C)C)C(C)(C)C | C28H38N4O4
reactant | n-butyl lithium | 1.6 M, 10 ml | C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-{4-[(4,6-di-t-butyl-5-hydroxy-2-methyl-2,3-dihydrobenzofuran-2-yl)methoxy]benzylideneamino}guanidine | 0.46 g, yield 25% | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(C)COC2=CC=C(C=NNC(=N)N)C=C2)C(C)(C)C)O | C26H36N4O3
